US06555584B1
3-Benzyloxy-N-[2-[(phenyloxycarbonylamino)sulfonyl]phenyl]benzamide
In a stream of nitrogen and at 0° C., 0.36 ml (2.87 mmol) of phenyl chlorocarbonate was added to an anhydrous tetrahydrofuran (10 ml) solution containing 1 g (2.60 mmol) of 3-benzyloxy-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 1 and 702 mg (5.75 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was recrystallized from acetonitrile to obtain 1.00 g (yield: 77.0%) of the title compound.

reactant | phenyl chlorocarbonate | 2.87 mmol, 0.36 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 3-benzyloxy-N-(2-sulfamoylphenyl)benzamide | 2.60 mmol, 1 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(N)(=O)=O)C=CC1 | C20H18N2O4S
catalyst | 4-dimethylaminopyridine | 5.75 mmol, 702 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Benzyloxy-N-[2-[(phenyloxycarbonylamino)sulfonyl]phenyl]benzamide | 1.00 g, yield: 77.0% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(=O)OC2=CC=CC=C2)C=CC1 | C27H22N2O6S
